US06352993B1
6-hydroxymethyl-5-methyl-2-phenylamino-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride
A solution of 6-methoxymethyl-5-methyl-2-phenylamino-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine(4.0 g, 9.7 mmol) in dichloromethane (50 ml) was cooled under 0° C. Boron tribromide (1M-dichloromethane solution, 38.8 ml, 38.8 mmol) was added dropwise to the solution. The reaction mixture was stirred for 30 minutes at 0° C. and poured into ice water. The separated dichloromethane layer was washed with aqueous sodium bicarbonate solution, dried over anhydrous sodium sulfate, concentrated under a reduced pressure. Ethyl ether was added to the resulting residue to give a solid, which was then dissolved in ethanol and treated with ethyl ether saturated with hydrochloric acid to give 2.3 g of the titled compound.

reactant | 6-methoxymethyl-5-methyl-2-phenylamino-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine | 9.7 mmol, 4.0 g | COCC1=C(C(=NC(=N1)NC1=CC=CC=C1)N1C(C2=CC=CC=C2CC1)C)C | C23H26N4O
reactant | Boron tribromide | 38.8 mmol, 1M, 38.8 ml | B(Br)(Br)Br | BBr3
reactant | ethyl ether | C(C)OCC | C4H10O
reactant | hydrochloric acid | Cl | ClH
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | ethanol | C(C)O | C2H6O
product | 6-hydroxymethyl-5-methyl-2-phenylamino-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride | 2.3 g, Yield: 59.5% | Cl.OCC1=C(C(=NC(=N1)NC1=CC=CC=C1)N1C(C2=CC=CC=C2CC1)C)C | InChI=1S/C22H24N4O.ClH/c1-15-20(14-27)24-22(23-18-9-4-3-5-10-18)25-21(15)26-13-12-17-8-6-7-11-19(17)16(26)2;/h3-11,16,27H,12-14H2,1-2H3,(H,23,24,25);1H
